US08314138B2
Synthesis of 4-methyl-2-[1-(4-pyrrol-1-yl-benzyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 1-(4-bromomethyl-phenyl)-1H-pyrrole as described in Example 49 and isolated as a white solid (0.08 g, 52% yield). 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 8.54-8.57 (m, 1H), 7.71 (d, J=8.1 Hz, 1H), 7.26-7.43 (m, 6H), 7.07 (d, J=8 Hz, 2H), 6.86 (s, 1H), 6.35 (d, J=4 Hz, 2H), 6.18-6.25 (m, 1H), 5.36 (s, 2H), J=8 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=455.2; Rt=1.38 min; HRMS (M+H)+=455.17.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 1-(4-bromomethyl-phenyl)-1H-pyrrole | BrCC1=CC=C(C=C1)N1C=CC=C1 | C11H10BrN
product | 4-methyl-2-[1-(4-pyrrol-1-yl-benzyl)-1H-pyrazol-3-yl]-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC=C(C=C1)N1C=CC=C1)C | C25H22N6OS
